* AeroTone - Single Note Simulation
.INCLUDE real_components.lib

* Power supplies
V_SUPPLY vcc 0 DC 12
V_LOGIC vdd 0 DC 15

* Reference signal at 164.81Hz
V_REF ref_in 0 PULSE(0 15 0 10N 10N 3.033796492931254M 6.067592985862508M)

* Tach feedback (simplified - matches reference for locked PLL)
V_TACH tach_raw 0 SIN(0 50M 164.81 0 0)

* Virtual ground for op-amp
R_VG1 vdd vgnd 10K
R_VG2 vgnd 0 10K
C_BIAS vgnd 0 10U IC=7.5

* Signal conditioner
C_AC tach_raw tach_ac 1U
R8 tach_ac opamp_inn 1K
R9 opamp_inn cond_out 100K
X_U2 vgnd opamp_inn vdd 0 cond_out LM358

* Phase detector (simplified XOR)
B_PD pd_out 0 V=abs(V(ref_in)-V(cond_out))/15 * 15

* Loop filter
R3 pd_out loop_filt 100K
X_C2 loop_filt 0 CAP_ELEC_10U

* Motor model (simplified)
R_MOTOR loop_filt motor_out 20
C_MOTOR motor_out 0 100U IC=0

.OPTIONS RELTOL=0.01 ABSTOL=1N VNTOL=1M
.CONTROL
set filetype=ascii
TRAN 10U 30M UIC
WRDATA note_164.dat V(loop_filt) V(cond_out) V(motor_out)
.ENDC
.END
